US05258357
4-Chloro-3-phenylaminocarbonylthiophene-2-carboxylic acid
4-Chlorothiophene-3-carboxanilide (14.6 g, 0.061 mol) is dissolved in 450 ml of THF and the solution is cooled to -70° C.; n-butyllithium (0.13 mol, 1.6N solution in n-hexane) is then added. After 30 minutes, carbon dioxide is gassed in until the solution was saturated, and the solution is allowed to heat up slowly to room temperature. It is then concentrated to dryness, the solid residue is taken up in a mixture of water, sodium hydroxide solution and ethyl acetate, the phases are separated and the aqueous phase is acidified with hydrochloric acid, thus precipitating the carboxylic acid. Yield: 13.5 g, 78%; m.p. 208°-210° C. (active ingredient no. 2.008).

reactant | 4-Chlorothiophene-3-carboxanilide | 0.061 mol, 14.6 g | ClC=1C(=CSC1)C(=O)NC1=CC=CC=C1 | C11H8ClNOS
reactant | n-butyllithium | 0.13 mol, 1.6N | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 450 ml | C1CCOC1 | C4H8O
product | 4-Chloro-3-phenylaminocarbonylthiophene-2-carboxylic acid | ClC=1C(=C(SC1)C(=O)O)C(=O)NC1=CC=CC=C1 | C12H8ClNO3S
